US04218458
To a stirred and cooled (10° C.) mixture of 7 parts of 2-(4-methoxyphenyl)-1H-imidazole, 4.2 parts of N,N-diethylethanamine and 40 parts of acetonitrile is added dropwise a solution of 6.5 parts of ethyl carbonochloridate in a small amount of 1,1'-oxybisethane at a temperature below 10° C. Upon completion, stirring is continued overnight at room temperature. The reaction mixture is poured onto 175 parts of 1,1'-oxybisethane and the whole is stirred. The precipitate is filtered off and the filtrate is washed three times with water, dried, filtered and evaporated. The oily residue is heated to 180° C., cooled and dissolved in 1,1'-oxybisethane. The undissolved material is filtered off and the ether-phase is saturated with hydrogen chloride. The formed hydrochloride salt is filtered off and triturated in 2-butanone, yielding 3 parts of 1-ethyl-2-(4-methoxyphenyl)-1H-imidazole monohydrochloride.

reactant | 2-(4-methoxyphenyl)-1H-imidazole | COC1=CC=C(C=C1)C=1NC=CN1 | C10H10N2O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | C(C)#N | C2H3N
reactant | ethyl carbonochloridate | C(OCC)(=O)Cl | C3H5ClO2
solvent | 1,1'-oxybisethane | O(CC)CC | C4H10O
product | 1-ethyl-2-(4-methoxyphenyl)-1H-imidazole monohydrochloride | Cl.C(C)N1C(=NC=C1)C1=CC=C(C=C1)OC | InChI=1S/C12H14N2O.ClH/c1-3-14-9-8-13-12(14)10-4-6-11(15-2)7-5-10;/h4-9H,3H2,1-2H3;1H
